US07618982B2
DL-(2.5-dioxo-tetrahydro-furan-3-yl)-carbamic acid tert-butyl ester
A mixture of 1 g (4.29 mmol) of N-(tert-butoxycarbonyl)-DL-aspartic acid and 0.98 g (5.15 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI) in 100 mL of DCM, was stirred at room temperature overnight. The solution was extracted three times with 5% aq. NaHSO4, the organic extracts were dried over anh. sodium sulfate and the solvent evaporated under vacuum. In this way 750 mg of the title compound were recovered. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.38 (s, 9 H) 2.78-2.90 (m, 1 H) 3.15-3.28 (m, 1 H) 4.54-4.65 (m, 1 H) 7.73 (d, J=7.91 Hz, 1 H).

reactant | N-(tert-butoxycarbonyl)-DL-aspartic acid | 4.29 mmol, 1 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)C(=O)O | C9H15NO6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.15 mmol, 0.98 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (2.5-dioxo-tetrahydro-furan-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C(OC(C1)=O)=O)=O | C9H13NO5
